US07429565B2
Polymer-supported triphenylphosphine (3 mmol/g, 0.5 g) was soaked in dichloromethane (10 mL) for 1 hour. 7-Hydroxy-6-(4-hydroxy-3-methyl-but-2-enyl)-5-methoxy-4-methyl-3H-isobenzofuran-1-one (100 mg, 0.36 mmol) and carbon tetrabromide (143 mg, 0.43 mmol) were added sequentially and the mixture was shaken for 1 hour at room temperature. More carbon tetrabromide (143 mg, 0.43 mmol) was added and the mixture was shaken further for 1 hour. The mixture was filtered and the filtrate was concentrated. The residue was chromatographed on silica gel (0% to 60% ethyl acetate/hexanes) to afford 6-(4-bromo-3-methyl-but-2-enyl)-7-hydroxy-5-methoxy-4-methyl-3H-isobenzofuran-1-one as an oil (52 mg, 42%); 1H NMR (300 MHz, CDCl3) δ 1.95 (s, 3H), 2.16 (s, 3H), 3.44 (d, J=7.2, 2H), 3.78 (s, 3H), 3.98 (s, 2H), 5.21 (s, 2H), 5.68 (t, J=7.2 Hz, 1H), 7.71 (brs, 1H) ppm.

reactant | triphenylphosphine | 0.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 7-Hydroxy-6-(4-hydroxy-3-methyl-but-2-enyl)-5-methoxy-4-methyl-3H-isobenzofuran-1-one | 0.36 mmol, 100 mg | OC=1C(=C(C(=C2COC(C12)=O)C)OC)CC=C(CO)C | C15H18O5
reactant | carbon tetrabromide | 0.43 mmol, 143 mg | C(Br)(Br)(Br)Br | CBr4
reactant | carbon tetrabromide | 0.43 mmol, 143 mg | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-(4-bromo-3-methyl-but-2-enyl)-7-hydroxy-5-methoxy-4-methyl-3H-isobenzofuran-1-one | 52 mg, 42% | BrCC(=CCC1=C(C(=C2COC(C2=C1O)=O)C)OC)C | C15H17BrO4
